US07642264B2
5-{1-[4-Methyl-6-(3-methyl-4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyrimidin-2-ylamine
The title compound was prepared from 2-(4-bromo-imidazol-1-yl)-4-methyl-6-(3-methyl-4-trifluoromethyl-phenyl)-pyrimidine (example E.51) (0.20 g, 0.5 mmol) and commercially available 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine (0.14 g, 0.65 mmol) according to the general procedure VI. Obtained as a light brown solid (0.022 g, 11%). MS (ISP) 412.4 [(M+H)+]; mp 248° C.

reactant | 2-(4-bromo-imidazol-1-yl)-4-methyl-6-(3-methyl-4-trifluoromethyl-phenyl)-pyrimidine | 0.5 mmol, 0.20 g | BrC=1N=CN(C1)C1=NC(=CC(=N1)C)C1=CC(=C(C=C1)C(F)(F)F)C | C16H12BrF3N4
reactant | 2-amino-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine | 0.65 mmol, 0.14 g | NC1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C10H16BN3O2
product | 5-{1-[4-Methyl-6-(3-methyl-4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-1H-imidazol-4-yl}-pyrimidin-2-ylamine | CC1=NC(=NC(=C1)C1=CC(=C(C=C1)C(F)(F)F)C)N1C=NC(=C1)C=1C=NC(=NC1)N | C20H16F3N7
